US07157475B2
Step A: Preparation of Ethyl 3-methyl-2-oxocyclohexanecarboxylate
To a suspension of sodium hydride (5.0 g, 0.125 mol) in tetrahydrofuran (250 mL) was added a solution of ethyl 2-oxocyclohexanecarboxylate (19.9 mL, 0.125 mol) in tetrahydrofuran (30 mL) whilst maintaining the temperature of the mixture between 10° C. and 15° C. by means of an ice bath. After stirring at 5° C. for 1 hour, butyl lithium (52.5 mL, 2.5 M solution in hexanes, 131 mmol) was added dropwise while maintaining the temperature below 12° C. After stirring at 5° C. for 30 minutes, iodomethane (7.8 mL, 125 mmol) was added. The reaction mixture was stirred at 5° C. for 1.5 hours and then quenched with a saturated solution of ammonium chloride. The mixture was diluted with ethyl ether, washed with water. The organic extracts were dried over magnesium sulfate and concentrated. The resulting residue was distilled (100–110° C., 0.1 torr) to obtain the title compound as a colorless oil.

reactant | sodium hydride | 0.125 mol, 5.0 g | [H-].[Na+]
reactant | ethyl 2-oxocyclohexanecarboxylate | 0.125 mol, 19.9 mL | O=C1C(CCCC1)C(=O)OCC | C9H14O3
reactant | butyl lithium | 131 mmol, 2.5 M, 52.5 mL | C(CCC)[Li]
reactant | iodomethane | 125 mmol, 7.8 mL | IC | CH3I
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | Ethyl 3-methyl-2-oxocyclohexanecarboxylate | CC1C(C(CCC1)C(=O)OCC)=O | C10H16O3
